US08309580B2
(1) methyl 2-ethyl-5-(4-methoxyphenyl)furan-3-carboxylate
To a solution of 2-bromo-4′-methoxyacetophenone (13.7 g) and methyl 3-oxopentanoate (7.8 g) in toluene (100 mL) was added dropwise 1,8-azabicyclo[5.4.0]-7-undecene (9.1 mL) over 30 min or more under ice-cooling. After the completion of the dropwise addition, the mixture was stirred for 30 min under ice-cooling, and then at room temperature for 2 hr. The resulting precipitate was filtered, and washed with toluene. The obtained toluene solution was passed through silica gel, and the silica gel was washed with ethyl acetate-hexane (1:1). The collected solutions were concentrated under reduced pressure to remove ethyl acetate-hexane to give a toluene solution. To this toluene solution was added 4-toluenesulfonic acid monohydrate (2.3 g), and the mixture was stirred at 100° C. for 2 hr. The reaction mixture was washed with aqueous sodium hydrogen carbonate solution, and the aqueous layer was extracted with ethyl acetate. The organic layers were collected, and dried over magnesium sulfate. The solvent was evaporated under reduced pressure. The residue was purified by silica gel chromatography (0% ethyl acetate/hexane to 5% ethyl acetate/hexane) to give the title compound (9.2 g, 59%) as an oil.

reactant | 2-bromo-4′-methoxyacetophenone | 13.7 g | BrCC(=O)C1=CC=C(C=C1)OC | C9H9BrO2
reactant | methyl 3-oxopentanoate | 7.8 g | O=C(CC(=O)OC)CC | C6H10O3
reactant | 4-toluenesulfonic acid monohydrate | 2.3 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
solvent | toluene | 100 mL | C1(=CC=CC=C1)C | C7H8
product | methyl 2-ethyl-5-(4-methoxyphenyl)furan-3-carboxylate | 9.2 g, 59% | C(C)C=1OC(=CC1C(=O)OC)C1=CC=C(C=C1)OC | C15H16O4
